US09056873B2
A mixture of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.399 mmol), 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[2,3-c]pyrazole (352 mg, 0.798 mmol) and tetrakis(triphenylphosphine)palladium(0) (231 mg, 0.200 mmol) in toluene (3 mL) was heated to 120° C. in a Biotage Initiator microwave for 30 minutes. The mixture was concentrated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(1,3-dimethyl-1H-thieno[2,3-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was subsequently dissolved in DCM (5 mL) and TFA (5 mL). The resulting solution was stirred at room temperature for 20 minutes, concentrated, and purified by preparatory HPLC, eluting with a gradient of 10-30% ACN (0.035% TFA) and water (0.05% TFA). The collected fractions were combined and dried to give a TFA salt of the title compound as a white solid (85 mg, 51%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.79-1.81 (m, 1H), 2.13-2.14 (m, 1H), 2.53 (s, 3H), 3.61-3.63 (m, 1H), 3.85-3.87 (m, 2H), 3.87 (s, 3H), 4.01-4.07 (m, 2H), 4.33-4.35 (m, 1H), 4.44 (d, J=7.80 Hz, 2H), 7.33-47.34 (m, 1H), 8.01-8.02 (m, 2H), 8.53 (s, 1H), 9.16 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C19H21FN6O2S, 417. found, 417.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.399 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[2,3-c]pyrazole | 0.798 mmol, 352 mg | CN1N=C(C2=C1SC(=C2)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.200 mmol, 231 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(1,3-dimethyl-1H-thieno[2,3-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC3=C(N(N=C3C)C)S1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C29H37FN6O6S
